US03951993
Upon heating a solution of 7.6 g of 3-nitrobenzaldehyde and 15.9 g of 3-amino-3-ethoxyacrylic acid ethyl ester in 50 ml of isopropanol for 6 hours, 2-amino-4-(3-nitrophenyl)-6-ethoxy-4,5-dihydropyridine-3,5-dicarboxylic acid diethyl ester of melting point 129° (isopropanol) is obtained.

reactant | 3-nitrobenzaldehyde | 7.6 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | 3-amino-3-ethoxyacrylic acid ethyl ester | 15.9 g | C(C)OC(C=C(OCC)N)=O | C7H13NO3
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | 2-amino-4-(3-nitrophenyl)-6-ethoxy-4,5-dihydropyridine-3,5-dicarboxylic acid diethyl ester | C(C)OC(=O)C1=C(N=C(C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)OCC)N | C19H23N3O7
